US05859007
To a stirred solution of 419 mg (1.01 mmol) N-Cyclopentyl-N-(4-methoxy-phenyl)-2-(6-phenylamino-cyclohexa-2,4-dienylamino)-acetamide, prepared as in Part B, in 5 mL THF is added 170 mg (1.21 mmol, 1.2 equiv) Malonyl dichloride dissolved in 2 mL THF dropwise at 0° C. The reaction is stirred 1 h at 0° C. followed by 18 h at ambient temperature. The solvent is removed in vacuo and the residue purified by flash chromatography on 15 g silica gel eluted with EtOAc/Hexanes (1:1, 300 mL). Appropriate fractions were combined and concentrated in vacuo to give 249 mg (0.515 mmol) of N-Cyclopentyl-2-(2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-(4-methoxy-phenyl)-acetamide as a clear glass: 1H NMR (CDCl3, 300 MHz) δ7.43-7.20 (m, 8H), 7.09 (m, 2H), 6.97 (m, 3H), 4.95 (m, 1H), 4.38 (d, 1H, J=16.4), 4.06 (d, 1H, J=16.3), 3.84 (s, 3H), 3.59 (d, 1H, J=12.0), 3.49 (d, 1H, J=11.9), 1.90 (m, 2H), 1.52 (m, 4H), 1.35 (m, 2H); TLC Rf =0.16 (EtOAc/Hexanes, 1:1).

reactant | N-Cyclopentyl-N-(4-methoxy-phenyl)-2-(6-phenylamino-cyclohexa-2,4-dienylamino)-acetamide | 1.01 mmol, 419 mg | C1(CCCC1)N(C(CNC1C=CC=CC1NC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC | C26H31N3O2
reactant | Malonyl dichloride | 1.21 mmol, 170 mg, 1.2 equiv | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-Cyclopentyl-2-(2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-(4-methoxy-phenyl)-acetamide | 0.515 mmol, 249 mg | C1(CCCC1)N(C(CN1C2=C(N(C(CC1=O)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=C(C=C2)OC | C29H29N3O4
